US09402397B2
A mixture of dithienyliodonium tosylate (200 mg, 0.446 mmol), NaN3 (29 mg, 0.446 mmol), and copper (I) iodide (9 mg, 0.446 mmol) in a mixture of PEG 300 and H2O (0.5 mL, 1:1, v/v) was stirred at room temperature for 30 minutes. Phenyl acetylene (0.05 mL, 0.446 mmol) was added, and the reaction mixture was stirred for a further 30 minutes at room temperature. Upon completion of reaction as indicated by thin layer chromatography, the product was extracted with ether (3×5 mL). The organic layer was dried over anhydrous Na2SO4 and evaporated. Flash column chromatography of the crude product was done (5-10% ethyl acetate/hexane) to yield 4-phenyl-1-(thiophen-2-yl)-1H-1,2,3-triazole (29 mg, 28%) as an off-white crystalline solid. The melting point of the final product was determined to be 139-141° C. The HPLC purity of the final product was 91.11%. LC-MS [M+H] 228 (C12H9N3S+H expected 228.05). The 1H-NMR spectra was in accordance with the chemical structure.

reactant | dithienyliodonium tosylate | 0.446 mmol, 200 mg | S(=O)(=O)([O-])C1=CC=C(C)C=C1.S1C(=CC=C1)[I+]C=1SC=CC1
reactant | NaN3 | 0.446 mmol, 29 mg | [N-]=[N+]=[N-].[Na+]
reactant | Phenyl acetylene | 0.446 mmol, 0.05 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | H2O | O | H2O
catalyst | copper (I) iodide | 0.446 mmol, 9 mg | [Cu]I
product | 4-phenyl-1-(thiophen-2-yl)-1H-1,2,3-triazole | 29 mg, 28% | C1(=CC=CC=C1)C=1N=NN(C1)C=1SC=CC1 | C12H9N3S
